*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXC630ARA820MJA0G
*//   Date        : 2018/02/14
*//   Update 	  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXC630ARA820MJA0G_20deg-C 1 2

C1 4 2 6.53e-05
C2 5 2 8.16e-06
C3 6 2 4.92e-06
R1 3 4 1.47e-02
R2 4 5 7.97e-02
R3 5 6 2.80e+00
L1 1 3 4.50e-09

.ENDS
*$
